US09145392B2
(E)-6-(4-(1-(2-(Dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(2-ethoxyvinyl)pyrimidin-4-amine (“86”)
The title compound was prepared in an analogous manner as 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine using (E)-2-(2-ethoxyvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane instead of 4-fluorophenyl boronic acid. LC-MS: (M+1=548, obsd.=548).

reactant | 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)F)C | C29H30F5N7
reactant | (E)-2-(2-ethoxyvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C(C)O/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
product | (E)-6-(4-(1-(2-(Dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(2-ethoxyvinyl)pyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)\C=C\OCC)C | C27H33F4N7O
